US06355680B1
In the manner described in example 3, 2-bromophenylacetic acid is condensed with 3-chloro-4-methoxyaniline to yield 2-[(3-chloro-4-methoxyphenyl)amino]phenylacetic acid.

reactant | 2-bromophenylacetic acid | BrC1=C(C=CC=C1)CC(=O)O | C8H7BrO2
reactant | 3-chloro-4-methoxyaniline | ClC=1C=C(N)C=CC1OC | C7H8ClNO
product | 2-[(3-chloro-4-methoxyphenyl)amino]phenylacetic acid | ClC=1C=C(C=CC1OC)NC1=C(C=CC=C1)CC(=O)O | C15H14ClNO3
